### ISSUE TITLE
`ring` tactic bug

### ISSUE THREAD

**Issue by arthurpaulino** [leanprover-community/mathlib4#165]
MWE:
```lean
import Mathlib.Tactic.Ring

def sum : Nat → Nat
  | 0     => 0
  | n + 1 => n + 1 + sum n

theorem mulDist {a b c : Nat} : a * (b + c) = a * b + a * c := by ring

theorem twoTimesSumEqTimesSucc {n : Nat} : 2 * sum n = n * (n + 1) := by
  induction n with
    | zero => rfl
    | succ n hi =>
      simp only [sum]
      iterate rw [mulDist]
      rw [hi]
      ring -- unknown free variable '_uniq.1942'
```
After some quick debugging, I noticed that the problem happens on [this call](https://github.com/leanprover-community/mathlib4/blob/3a835b7cb3dea4b887bc61d4be20eeeb740f1910/Mathlib/Tactic/Ring.lean#L39).
